Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
paliperidone / risperidone
 
Attending: ___.
 
Chief Complaint:
breakthrough seizure
 
Major Surgical or Invasive Procedure:
Lumbar puncture
Intubated at outside hospital
 
History of Present Illness:
___ (aka ___ ___ is a ___ yo man 
with
history of paranoid schizophrenia and epilepsy who presents with
breakthrough seizures. 

Parents had not heard from Mr. ___ in ___ days and Mother
called EMS for a well check. Mr. ___ was found sleepy and
confused on the floor next to the bed incontinent of stool and
urine, and was therefore felt likely to have had a seizure. 
Several unopened prescriptions (including levetiracetam) that 
had
been filled one week ago were found in his room in a bag, and it
was therefore felt likely he had been noncompliant with those
medications. 
 
___ staff also asked Mr. ___ if he had used any drugs or
alcohol today, and he said 'yes', but was unable to provide any
further details. 

After arriving at ___, he was seen to have 'right eye
contusion' and blood on his lips. He was 'minimally answering
questions' and moving all extremities per ___. 
He then had a GTC at 1611, lasted <2 minutes and he was given
LORazepam 2mg IV and levetiracetam 1g IV. 
He was later very agitated and they were unable to get CT and he
was given another 2mg IV Ativan without effect. He was then
intubated. He had temperature ___, WBC 20.5, lactate 4. 

Mr. ___ follows with ___ Neurology, Dr. ___, 
though
she is currently out on leave and he is scheduled to see ___ on ___. 

Epilepsy history per ___ clinic note by Dr. ___: 
"The patient was initially seen in the neurology clinic on
___ and most recently seen on ___. He had his first
seizures in ___ for which he was admitted to ___ in ___
after a witnessed generalized tonic-clonic seizure associated
with a tongue bite at ___. His seizures have been
associated with tongue bites, but no bowel/bladder incontinence.
He had been in ___ status post a fall at home, but
upon further history, he had had 3 falls at home over the
preceding 3 months which were also concerning for seizures. He
was transferred to ___ where an MRI
brain with and without contrast showed no masses, mild asymmetry
of the temporal horn of the lateral ventricles right larger than
left, and sinus retention cyst. Lumbar puncture showed WBC ___,
RBC 2110-820, glucose 69, protein 16.7, culture no growth. He 
was
started on Keppra 500 mg b.i.d. and had one more seizure in the
next month in the setting of medication noncompliance. He was
admitted to ___ in ___ after a generalized tonic-clonic
seizure while driving. Routine EEG during that admission showed
an occasional region of focal slowing and increased irritability
in the left frontal region of uncertain etiology. He followed up
with Dr. ___ at the Epilepsy Clinic at ___ in ___, and she changed his Keppra to
Lamictal as the Keppra was causing irritability and worsening 
his
psychiatric symptoms; however, the patient refused to take his
medications, so she then trialed Topamax but he also refused to
take that medication. He was subsequently placed on Depakote
which he remained on for a period of time, but he had persistent
seizures despite a therapeutic level and so Keppra was 
restarted.
He has also been followed by Dr. ___ Dr. ___ in the
neurology clinic at ___ from ___. His most
recent MRI brain ___ at ___ showed loss 
of
brain parenchyma within the right hippocampal formation as
compared to the left which may indicate right mesial temporal
sclerosis, and a few nonspecific T2 white matter abnormalities.
He has subsequently had seizures in ___, and multiple seizures in ___ and ___
in the setting of psychotic decompensation and medication
noncompliance. He is currently taking Keppra 1250 mg bid. In
___, he also reported bitemporal headaches which could occur
up to 2 times per month. The patient was seen at ___
___ for seizures." in setting of noncompliance. 

Review of records shows he has had multiple AKIs also in setting
of these presentations with seizure, but most recent creatinine
at ___ is 1.1. 

Unable to obtain ROS due to mental status. 
 
Past Medical History:
past psychiatric history:

pt has a history of schizophrenia vs, schizoaffective, had been
getting haldol decanoate, but has not bee medication compliant
for some time.

pt had first break in his early ___; has had approximately 4
psychiatric hospitalizations since that time and is followed by 
Dr. ___ ___ at ___. reportedly on 
Haldol
decanoate in the past. ___, per old records had a ___
worker ___ but his DMH case was closed years ago.

-Seizure disorder  
-Schizophrenia, dx at 21  
-Multiple psychiatric admission, ___ medication non-adherence  
-Hypertension 
 
Social History:
___
Family History:
Family psychiatric history; per past records pt has cousins with
schizophrenia
 
Physical Exam:
Admission PHYSICAL EXAMINATION
Vitals:  T: 102.6 HR: 88-104 BP: ___ RR: ___ SaO2:
98-100% AC Mode - VT 480 - RR 20 - PEEP 8 - FIO2 60%

Exam performed ___ minutes off sedation. 
General: Agitated, continually reaching for ETT, gagging and
raising his whole torso off the bed. 
HEENT: R subconjunctival hemorrhage. No scleral icterus, MMM, no
clear oropharyngeal lesions though examination limited by ETT. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: No EO, no commands. 
-Cranial Nerves: PERRL 3->2. No BTT bilaterally. Unable to 
assess
VOR due to patient fighting the ventilator and moving. Blinks to
lash stim bilaterally. Face appears symmetric through somewhat
limited by ETT. +gag. 
- Motor:  Continually reaching for ETT with each arm
independently. At one point lifts both arms and torso off the
bed. Intermittently raising and flexing each leg as well.
Strength appears full when examiner holds arms to keep him from
reaching ETT. No evidence of asymmetry. 
-DTRs:
  ___ Tri ___ Pat Ach Pec jerk   Crossed Adductors
L  2       2    2   2                        
R  2       2    2   2                       
Plantar response was flexor bilaterally.

-Sensory: sluggish withdrawal from noxious x4 (though this is
while he is actively fighting ventilator and moving constantly)

Discharge PHYSICAL EXAMINATION
24 HR Data (last updated ___ @ 841)
    Temp: 98.1 (Tm 99.7), BP: 127/89 (127-148/89-98), HR: 87
(87-119), RR: 18 (___), O2 sat: 94% (92-95), O2 delivery: RA   


General: awake and alert
HEENT: ecchymosis under right eye. sub conjunctival hemorrhage 
on
right 
Neck: supple, no nuchal rigidity 
CV: warm, well-perfused
Lungs: no increased WOB. 
Abdomen: soft, ND
Ext: no pedal edema
Skin: abrasion on right shoulder, no rash

Neuro:  
MS- Awake, alert oriented to ___, ___, ___. 
Able
to repeat without paraphasic errors, some paucity of speech and
takes longer time to respond but improved. Refuses to do DOWb.
Can spell WORLD backwards. 
 
CN- PERRL ___, EOMI without nystagmus, decreased activation on
left with smile, tongue midline, sensation intact V1-V3 

Motor- Exam limited by R shoulder pain. no pronator drift, ___
biceps, triceps and grip, ___ hip flexors, knee flexors and
extensors, and dorsi and plantar flexion. R deltoid limited by
pain from prior dislocation.
Sensory: sensation intact to light touch 
Reflexes: 2+ patellars, 2 beats of clonus on R and L ankles
Toes downgoing on L, equivocal on R
 
Pertinent Results:
___ 06:05AM BLOOD WBC-10.8* RBC-4.16* Hgb-11.5* Hct-36.1* 
MCV-87 MCH-27.6 MCHC-31.9* RDW-14.7 RDWSD-46.9* Plt ___
___ 06:05AM BLOOD ___ PTT-28.5 ___
___ 06:05AM BLOOD Glucose-102* UreaN-8 Creat-1.0 Na-142 
K-3.8 Cl-100 HCO3-25 AnGap-17
___ 06:05AM BLOOD ALT-25 AST-25 AlkPhos-72 TotBili-0.6
___ 06:05AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.0
___ 08:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-6* 
Tricycl-NEG
___ 08:20PM BLOOD Glucose-101 Lactate-2.7* Creat-1.6* 
Na-142 K-4.1 Cl-108 calHCO3-20*
___ 03:08AM BLOOD Lactate-0.8

CXR ___ IMPRESSION: 
 
Endotracheal tube terminates 4.5 cm above the carina.  Tear tube 
courses below the diaphragm, terminating in the expected 
location of the proximal stomach.
 
Mild to moderate cardiomegaly.
 
Obscuration of the left hemidiaphragm; could be due to 
atelectasis or
aspiration; pneumonia or pleural effusion not excluded.
 
Possible subtle deformity of the right glenohumeral joint. Not 
well assessed on this study.

CT Head wo cont ___ IMPRESSION: 
 
No acute intracranial process.  Please note that MRI is more 
sensitive in
detecting seizure foci.
 
Partially imaged nasopharynx appears thickened, but not well 
assessed on this study, possibly related to intubation.  
Attention at follow-up/MRI.

HSV PCR of CSF Negative ___

EEG Report ___
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study due to:
1) Infrequent epileptiform discharges with a broad field and a 
frontal
predominance, which could indicate a generalized or focal 
frontal region of cortical hyperexcitability and potential for 
seizure, though no actual
electrographic seizures are seen.
2) Occasional bursts of generalized rhythmic delta activity, 
often stimulus induced (SI-GRDA), which can be seen in diffuse 
encephalopathies, generalized cortical hyperexcitability, and 
deep midline structural lesions.
3) Diffuse slowing present in the background, suggestive of a 
moderate
encephalopathy that is nonspecific as to etiology, common causes 
including medications/sedation, toxic metabolic disturbances, 
and infections.
 
There are no pushbutton events. No electrographic seizures are 
seen. Compared to the prior day's study, a burst suppression 
pattern is no longer seen, and there is some improvement in the 
degree of encephalopathy.
 
Brief Hospital Course:
___ is a ___ yo man with history of paranoid 
schizophrenia and epilepsy who presents with breakthrough 
seizures felt likely to be due to medication non-compliance. 

#Breakthrough seizure: On presentation he was febrile with 
leukocytosis to 21. CSF done in ED showed pleocytosis, WBC 9 but 
normal glucose and normal protein. He was started on CNS dosing 
of vanc, ceftriaxone, and acyclovir. Cultures remained NGTD and 
felt that Pleocytosis was likely reactive iso seizures rather 
than bacterial CNS infection. He was continued on acyclovir 
until HSV PCR resulted. He monitored on EEG without evidence of 
electrographic seizures. He was continued on his home AEDs. Once 
extubated patient said he had not been taking his medication for 
a long time now but couldn't say how long.
- HSV PCR negative. Acyclovir stopped.  
- Continue Keppra 1250mg BID 
- We discussed with patient about other agents that would be 
less cumbersome to take such as long acting medications such as 
zonisamide, however the patient declined switching his seizure 
medication and stated he wanted to stay on Keppra 

#STE on EKG: on admission was noted to have STE on EKG. He was 
seen by cardiology who felt that likely toxic metabolic rather 
than ACS. Trop and CKMB were negative x3 and repeat EKG showed 
improvement in STE. 

#HTN: Patient's home BP meds were initially held. His nifedipine 
was restarted on ___. On his medication list it said he was 
taking Lisinopril but in our records from ___ it was 
documented that he had angioedema from Lisinopril in the past. 
Verified with PCP that patient has been taking Lisinopril and 
does not have an allergic reaction to it. 
- home nifedipine 60mg ER and lisinopril 40mg daily restarted, 
blood pressures improved to 130 systolic on home regiment 

#Pulmonary: intubated d/t agitation at OSH, Required continued 
sedation due to agitation when weaned. Overnight on ___ he self 
extubated and was quickly weaned to room air. He did well from 
respiratory perspective. 
-no respiratory problems after extubation. 

___ on CKD: Creatinine 1.6-> 1.8 from baseline 1.3. Likely due 
to pre-renal, worsened by acyclovir, and likely pigmented 
nephropathy from rhabdo. Improved with IVF back to 1.0. Later 
did well on PO fluids. 

#Leukocytosis 
#Fever: WBC elevated to 16 from 20, likely reactive iso seizure.
Did spike fever to 101.4 initially but afebrile since. CXR with 
possible PNA. Blood, csf, and urine culture remain NGTD 
- Empiric meningitis coverage started but stopped after CSF 
profile reassuring. 
- Acyclovir stopped after HSV PCR negative
-wbc normalized while patient was on the floor

#Psych: history of paranoid schizophrenia unclear adherence to 
medications. He is taking abilify 15mg daily and was previously 
on IM abilify. It has been held since he was admitted and 
unclear if he was taking it as prescribed. 
- Restarted abilify 15mg daily per psych recs 

#Shoulder pain: 
-Patient had L shoulder pain during admission which he states is 
an old shoulder dislocation that has been imaged by his 
outpatient providers
-given NSAIDs and Tylenol to good effect

#Conjunctival hemorrhage L eye: 
-stable, not painful. Follow up with PCP . Likely traumatic when 
patient fell during seizure at home prior to admission 

Transitional Issues 
===================
[] f/u BP and Cr at PCP ___
[] f/u with psych about medication titration 
[] follow up with PCP
[] follow up with neurologist
[] consider switching Keppra to zonisamide for possible improved 
adherence and mood if patient is amenable. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 15 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. NIFEdipine (Extended Release) 60 mg PO DAILY 
4. LevETIRAcetam 1250 mg PO BID 
5. Cyanocobalamin 500 mcg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  ARIPiprazole 15 mg PO DAILY  
2.  Cyanocobalamin 500 mcg PO DAILY  
3.  LevETIRAcetam 1250 mg PO BID  
4.  Lisinopril 40 mg PO DAILY  
5.  NIFEdipine (Extended Release) 60 mg PO DAILY  
6.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure Disorder
Paranoid Schizophrenia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ from ___ due to breakthrough 
seizures because you stopped taking your medications. 

You were initially intubated at ___ and transferred 
to the neuro-ICU at ___. You had a fever and high white blood 
cells but an infection was ruled out after test results came 
back. Your fever resolved and your white blood cells returned to 
normal. 

You were restarted on your home medications to prevent seizures. 
Your blood pressure was high, so you were restarted on your home 
blood pressure medications. 

The antiseizure medication, Keppra (Levetiracetam) has been 
increased to 1250mg twice a day. 
Please take your medications as prescribed. 

Follow up with your PCP. An appointment has been made for you. 

Follow up with your neurologist. Your appointment is listed 
below. 

Thank you for the opportunity to care for you. 

Sincerely, 

Your ___ Neurology Team
 
Followup Instructions:
___